US20010037037A1
47 g (1.17 mol) of NaOH, dissolved in 450 ml of methanol, are added to 208.03 g (1.17 mol) of 3,4-dimethoxybenzyl cyanide in a sulfonating flask and the solution is cooled in an ice-bath to 0-5° C. At that temperature, with stirring for 4 hours, 1.17 mol of gaseous methyl nitrite (prepared in situ by the addition of 38 ml of conc. H2SO4, dissolved in 82 ml of water, to a solution of 97.1 g of NaNO2 in 59 ml of water and 62 ml of methanol, see Org. Synthesis 59, 95, 1979) are introduced into the solution. The reaction solution is then stirred overnight and thereafter nitrogen is passed through the solution. Methanol is distilled off in a rotary evaporator and the brown residue is then made into a slurry in a mixture of toluene and water for 30 minutes with stirring. The phases are separated and the aqueous phase is washed with toluene and then rendered acidic with concentrated HCl. The product is obtained in the form of a beige precipitate. The precipitate is filtered off, washed neutral with water, dried in vacuo and then recrystallised from ethyl acetate. 114 g (47%) of α-hydroxyimino-3,4-dimethoxybenzyl cyanide are obtained in the form of a beige solid having a melting point of 183-191° C.

reactant | NaOH | 1.17 mol, 47 g | [OH-].[Na+]
reactant | 3,4-dimethoxybenzyl cyanide | 1.17 mol, 208.03 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
reactant | methyl nitrite | 1.17 mol | N(=O)OC | CH3NO2
reactant | H2SO4 | 38 ml | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 97.1 g | N(=O)[O-].[Na+]
solvent | methanol | 450 ml | CO | CH4O
solvent | water | 82 ml | O | H2O
solvent | water | 59 ml | O | H2O
solvent | methanol | 62 ml | CO | CH4O
product | α-hydroxyimino-3,4-dimethoxybenzyl cyanide | 114 g, 47% | ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C10H10N2O3
